US07893267B2
120 mg (0.4 mmol) of 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid was reacted with 400 mg (1.1 mmol) of HBTU and 160 mg (1.0 mmol) of 4-phenyl-1H-imidazol-2-ylamine (160 mg, 1 mmol) according to the general procedure A. The residue was purified by flash column chromatography (EtOAc) to provide 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid (4-phenyl-1H-imidazol-2-yl)-amide (30 mg, 17.5%). LCMS: 431 (M+1)+.

reactant | 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid | 0.4 mmol, 120 mg | C1=NC(=CC2=CC=CC=C12)C1=NC2=C(N1)C=CC=C2C(=O)O | C17H11N3O2
reactant | HBTU | 1.1 mmol, 400 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-phenyl-1H-imidazol-2-ylamine | 1.0 mmol, 160 mg | C1(=CC=CC=C1)C=1N=C(NC1)N | C9H9N3
product | 2-isoquinolin-3-yl-1H-benzoimidazole-4-carboxylic acid (4-phenyl-1H-imidazol-2-yl)-amide | 30 mg, 17.5% | C1(=CC=CC=C1)C=1N=C(NC1)NC(=O)C1=CC=CC=2NC(=NC21)C=2N=CC1=CC=CC=C1C2 | C26H18N6O
